US07745438B2
3-(1-Hydroxy-2-nitroethyl)-phenol
Dissolve 3-hydroxybenzaldehyde (18.4 g, 15.07 mmol) in tetrahydrofuran (100 mL). Add nitromethane ((42 mL, 780 mmol), cool in an ice bath and add tetrabutylammonium fluoride (151 mL, 151 mmol, 1.0 M in tetrahydrofuran). Stir for 2 hours, dilute with ethyl acetate (200 mL), wash with water (3×500 mL) and saturated aqueous sodium chloride (200 mL). Extract the aqueous washes with diethyl ether (3×), wash with saturated aqueous sodium chloride, dry (magnesium sulfate), filter through a pad of silica gel, and concentrate. Suspend the residue in hot dichloromethane with 5% ethyl acetate, cool and filter solid. Purify filtrate using silica gel chromatography, eluting with 5:95 ethyl acetate:dichloromethane. Combine the solid from the dichloromethane tritutation with the purified filtrate to give the desired compound (24.88 g, 90% total yield).

reactant | 3-hydroxybenzaldehyde | 15.07 mmol, 18.4 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | nitromethane | [N+](=O)([O-])C | CH3NO2
reactant | tetrabutylammonium fluoride | 151 mmol, 1.0 M, 151 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-(1-Hydroxy-2-nitroethyl)-phenol | 24.88 g, 90% | OC(C[N+](=O)[O-])C=1C=C(C=CC1)O | C8H9NO4
